US09382218B2
N*5*-(3,5-Dichloro-phenyl)-[1,2,4]oxadiazole-3,5-diamine (Compound 5)
In a 5 mL microwave vial, (Z)-methyl N′-cyano-N-(3,5-dichlorophenyl)carbamimidothioate (156 mg, 0.6 mmol, Eq: 1.00) and N,O-bis(trimethylsilyl)hydroxylamine (160 mg, 900 μmol, Eq: 1.5) were combined with CCl4 (1 ml) to give a colorless suspension which was capped and heated in a 80° C. oil bath for 2.5 hr. The mixture was concentrated in vacuo and MeOH added. The mixture was stirred at RT for 18 hours. The reaction mixture was concentrated in vacuo and the crude material was purified by preparative TLC (silica gel, 1.0 mm, 9:1 DCM/MeOH) to give product which was recrystallized from MeOH and dried in vacuo (89° C., 2 torr, overnight) to give 32 mg (22%) of desired product as a light brown solid.

reactant | (Z)-methyl N′-cyano-N-(3,5-dichlorophenyl)carbamimidothioate | 0.6 mmol, 156 mg | C(#N)\N=C(\NC1=CC(=CC(=C1)Cl)Cl)/SC | C9H7Cl2N3S
reactant | N,O-bis(trimethylsilyl)hydroxylamine | 900 μmol, 160 mg | C[Si](NO[Si](C)(C)C)(C)C | C6H19NOSi2
solvent | CCl4 | 1 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | N*5*-(3,5-Dichloro-phenyl)-[1,2,4]oxadiazole-3,5-diamine | 32 mg, 22% | ClC=1C=C(C=C(C1)Cl)NC1=NC(=NO1)N | C8H6Cl2N4O
